US04176184
220 gm of 4,4-dimethyl-7-acetamino-2H,4H-isoquinoline-1,3-dione were added in portions to 800 ml of fuming nitric acid at -20° C. while stirring. The mixture was stirred for one hour at this temperature. Then, the reaction mixture was poured over ice, the precipitate was suction-filtered off, washed neutral with water, dried in the air, and boiled with isopropanol. After cooling, the crystals were suction-filtered off and washed with ether, yielding 222 gm (85% of theory) of 4,4-dimethyl-7-acetamino-8-nitro-2H,4H-isoquinoline-1,3-dione, m.p. 249° C. (decomp.).

reactant | 4,4-dimethyl-7-acetamino-2H,4H-isoquinoline-1,3-dione | 220 gm | CC1(C(NC(C2=CC(=CC=C12)NC(=O)C)=O)=O)C | C13H14N2O3
reactant | nitric acid | 800 ml | [N+](=O)(O)[O-] | HNO3
product | 4,4-dimethyl-7-acetamino-8-nitro-2H,4H-isoquinoline-1,3-dione | 222 gm, 85% | CC1(C(NC(C2=C(C(=CC=C12)NC(=O)C)[N+](=O)[O-])=O)=O)C | C13H13N3O5
